simulator lang=spectre
global 0

ahdl_include "./dut/safe_voltage_divider.va"

Vnum (signumer 0) vsource type=pwl wave=[0 0.2 10n 0.2 10.1n 0.3 20n 0.3 20.1n -0.2 35n -0.2]
Vden (sigdenom 0) vsource type=pwl wave=[0 0.4 10n 0.4 10.1n 0.1 20n 0.1 20.1n -0.1 35n -0.1]
XDUT (signumer sigdenom sigout) safe_voltage_divider gain=2 min_sigdenom=0.25

simulatorOptions options evas_profile=balanced

tran tran stop=30n maxstep=25p
save sigdenom signumer sigout
